US04963566
To a solution of 8-(5-fluoro-6-methoxy-2-benzimidazolyl)thiomethyl-1-ethyl-4-acetyloxymethyl-1,2,3,4-tetrahydroquinoline (2.55 g) in methanol (20 ml) was added a saturated aqueous solution of potassium carbonate (10 ml) and the mixture was stirred for 1 hour at room temperature. The reaction mixture was extracted with dichloromethane and dried. The solvent was distilled off to give 8-(5-fluoro-6-methoxy-2-benzimidazolyl)thiomethyl-1-ethyl-4-hydroxymethyl-1,2,3,4-tetrahydroquinoline (1.74 g).

reactant | 8-(5-fluoro-6-methoxy-2-benzimidazolyl)thiomethyl-1-ethyl-4-acetyloxymethyl-1,2,3,4-tetrahydroquinoline | 2.55 g | FC1=CC2=C(N=C(N2)SCC=2C=CC=C3C(CCN(C23)CC)COC(C)=O)C=C1OC | C23H26FN3O3S
reactant | potassium carbonate | 10 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 ml | CO | CH4O
product | 8-(5-fluoro-6-methoxy-2-benzimidazolyl)thiomethyl-1-ethyl-4-hydroxymethyl-1,2,3,4-tetrahydroquinoline | 1.74 g | FC1=CC2=C(N=C(N2)SCC=2C=CC=C3C(CCN(C23)CC)CO)C=C1OC | C21H24FN3O2S
